US05149859
Synthesis of methyl 6-(6-hydroxy-2-naphthylthio)-5-oxohexanoate
Into 205 ml (1.16 mmol) of 6-hydroxynaphthalene-2-thiol was charged 5 ml of pyridine, and the mixture was stirred under an ice bath. A solution of 315 mg of methyl 6-bromo-5-oxohexanoate in 2 ml of pyridine was added, and the mixture was stirred under an ice bath for 1 hour. Further, the reaction was carried out at room temperature for 4 hours, by heating to 90° C. for 4 hours, and subsequently stirring was continued at room temperature overnight. The reaction mixture was neutralized with dilute hydrochloric acid and extracted with ethyl acetate, and the organic layer was dried over anhydrous magnesium sulfate.

reactant | 6-hydroxynaphthalene-2-thiol | 1.16 mmol, 205 ml | OC=1C=C2C=CC(=CC2=CC1)S | C10H8OS
reactant | methyl 6-bromo-5-oxohexanoate | 315 mg | BrCC(CCCC(=O)OC)=O | C7H11BrO3
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | methyl 6-(6-hydroxy-2-naphthylthio)-5-oxohexanoate | OC=1C=C2C=CC(=CC2=CC1)SCC(CCCC(=O)OC)=O | C17H18O4S
